US07514468B2
1-acetyl-3-[1-ethoxy-1-phenyl-methylene]-6-chloro-2-indolinone
A solution of 41.9 g 1-acetyl-6-chloro-2-indolinone (educt V.1) and 136 ml triethyl orthobenzoate in 150 ml acetic anhydride is stirred for six hours at 120° C. After cooling the mixture is evaporated down by half, the crystals precipitated are suction filtered and dried at 100° C. in vacuo.

reactant | 1-acetyl-6-chloro-2-indolinone | 41.9 g | C(C)(=O)N1C(CC2=CC=C(C=C12)Cl)=O | C10H8ClNO2
reactant | triethyl orthobenzoate | 136 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-[1-ethoxy-1-phenyl-methylene]-6-chloro-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC=CC=C1)OCC)=O | C19H16ClNO3
